US04014869
(2S; 5R, 6R)-6-(2-phenylbut-2-enamido)-2,2-dimethylpenam-3-carboxylic acid (cis-isomer).
In a similar manner to that of Example 17, 2-phenylbut-2-enoic acid (cis isomer) was converted into its acid chloride and coupled with (3S, 5R, 6R)-6-amino-2,2-dimethylpenam-3-carboxylic acid to give the title compound, λmax. (pH 6 phosphate buffer) 234, 345 nm (ε7,200; 4,260), νmax. (nujol) 1770 (β-lactam), τ (d6 -DMSO) values include 0.92 (d, NH), 3.83 (q, 6Hz vinylic proton), 4.3-4.5 (m, 5 and 6 H), 8.42 and 8.52 (gem dimethyl).

reactant | 2-phenylbut-2-enoic acid | C1(=CC=CC=C1)C(C(=O)O)=CC | C10H10O2
reactant | (3S, 5R, 6R)-6-amino-2,2-dimethylpenam-3-carboxylic acid | N[C@H]1[C@@H]2N([C@H](C(S2)(C)C)C(=O)O)C1=O | C8H12N2O3S
product | 6-(2-phenylbut-2-enamido)-2,2-dimethylpenam-3-carboxylic acid | C1(=CC=CC=C1)C(C(=O)NC1[C@@H]2N(C(C(S2)(C)C)C(=O)O)C1=O)=CC | C18H20N2O4S
